US08604030B2
[Step 3] 64 mg of the crude product of 3-amino-1-(4-chloropyridin-3-yl)butan-1-one dihydrochloride were dissolved in 2 mL of N-dimethylformamide followed by adding 0.18 mL of diisopropylethylamine while cooling with ice and stirring for 1 hour at room temperature. This was followed by additionally stirring overnight at 100° C. Following completion of the reaction, water was added followed by extracting three times with chloroform. After washing with saturated brine and dehydrating with anhydrous sodium sulfate, the solution was concentrated under reduced pressure and the resulting residue was purified using silica gel chromatography (methanol:chloroform=1:10) to obtain 9 mg of 4-oxo-2-methyl-2,3-dihydro-1H-[1,6]naphthyridine in the form of a pale yellow oil (27%).

reactant | 3-amino-1-(4-chloropyridin-3-yl)butan-1-one dihydrochloride | Cl.Cl.NC(CC(=O)C=1C=NC=CC1Cl)C
reactant | diisopropylethylamine | 0.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
product | 4-oxo-2-methyl-2,3-dihydro-1H-[1,6]naphthyridine | 9 mg | O=C1CC(NC2=CC=NC=C12)C | C9H10N2O
